US07067540B2
Ethyl 2-({[3-bromo-1-(5-{[(2-hydroxyethyl)amino]carbonyl}-2-methylphenyl)-6-methyl-2-oxo-1,2-dihydropyridin-4-yl]oxy}methyl)-5-fluorobenzylcarbamate
To a cooled (−10° C.) solution of 3-[3-bromo-4-[(2-{[(ethoxycarbonyl)amino]methyl}-4-fluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-4-methylbenzoic acid (0.25 g, 0.46 mmol) and 4-methylmorpholine (0.06 mL, 0.55 mmol) in DMF was added isobutyl chloroformate (0.07 mL, 0.55 mmol). The colorless solution gradually turned dark brown. After 30 min, ethaolamine (0.04 mL, 0.69 mmol) was added and the solution warmed to RT. After 1 h, solvent was removed and the crude product was purified by preparatory HPLC. Acetonitrile was evaporated and the solution washed with 5% NaHCO3 (20 mL) and extracted in DCM (3×15 mL). The organic extracts were dried over Na2SO4, filtered, and concentrated to a white solid, dried in vacuo (0.09 g, 33%). 1H NMR (CD3OD/400 MHz) δ 7.88 (m, 1H), 7.61 (s, 1H), 7.53 (m, 2H), 7.13 (m, 1H), 7.05 (m, 1H), 6.68 (s, 1H), 5.40 (s, 2H), 4.43 (s, 2H), 4.07 (q, 2H, J=7.2 Hz), 3.68 (t, 2H, J=5.6 Hz), 3.48 (t, 2H, J=5.6 Hz), 2.09 (s, 3H), 2.00 (s, 3H), 1.22 (t, 3H, J=7.2 Hz). ES HRMS m/z 590.1266 and 592.1254 (M+H calculated for C27H30BrFN3O6 requires 590.1297 and 592.1281).

reactant | 3-[3-bromo-4-[(2-{[(ethoxycarbonyl)amino]methyl}-4-fluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-4-methylbenzoic acid | 0.46 mmol, 0.25 g | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)CNC(=O)OCC)C)C=1C=C(C(=O)O)C=CC1C)=O | C25H24BrFN2O6
reactant | 4-methylmorpholine | 0.55 mmol, 0.06 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.55 mmol, 0.07 mL | ClC(=O)OCC(C)C | C5H9ClO2
solvent | DMF | CN(C)C=O | C3H7NO
product | Ethyl 2-({[3-bromo-1-(5-{[(2-hydroxyethyl)amino]carbonyl}-2-methylphenyl)-6-methyl-2-oxo-1,2-dihydropyridin-4-yl]oxy}methyl)-5-fluorobenzylcarbamate | BrC=1C(N(C(=CC1OCC1=C(CNC(OCC)=O)C=C(C=C1)F)C)C1=C(C=CC(=C1)C(=O)NCCO)C)=O | C27H29BrFN3O6
